US06489344B1
4-amino-2-[(2-{[4-(4-cyanophenyl)-5-imidazolylpyrimidin-2-yl]amino}ethyl)amino]pyrimidine-5-carbonitrile was prepared from 4-amino-2-chloropyrimidine-5-carbonitrile using the general method for 4-{5-imidazolyl-2-[(2-{[5-(trifluoromethyl)(2-pyridyl)]amino}ethyl)amino]pyrimidin-4-yl}benzenecarbonitrile.

reactant | 4-amino-2-chloropyrimidine-5-carbonitrile | NC1=NC(=NC=C1C#N)Cl | C5H3ClN4
reactant | 4-{5-imidazolyl-2-[(2-{[5-(trifluoromethyl)(2-pyridyl)]amino}ethyl)amino]pyrimidin-4-yl}benzenecarbonitrile | N1C(=NC=C1)C=1C(=NC(=NC1)NCCNC1=NC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C22H17F3N8
product | 4-amino-2-[(2-{[4-(4-cyanophenyl)-5-imidazolylpyrimidin-2-yl]amino}ethyl)amino]pyrimidine-5-carbonitrile | NC1=NC(=NC=C1C#N)NCCNC1=NC=C(C(=N1)C1=CC=C(C=C1)C#N)C=1NC=CN1 | C21H17N11
